US05721230
25.7 g (126 mmol) of trifluoroacetic anhydride were added dropwise to a stirred suspension of 26.5 g (123 mmol) of 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxamide and 23.4 g (300 mmol) of pyridine in 500 ml of dry dioxane at 10° C. After completion of the addition, the solvent was removed under reduced pressure and the residue was crystallized from methanol to give 13 g of 6,7,8,9-tetrahydropyrido[1,2-a]indole-8(RS)-carbonitrile, as a light tan solid of melting point 106°-109° C.

reactant | trifluoroacetic anhydride | 126 mmol, 25.7 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxamide | 123 mmol, 26.5 g | C1=C2C=C3N(C2=CC=C1)CCC(C3)C(=O)N | C13H14N2O
reactant | pyridine | 300 mmol, 23.4 g | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8(RS)-carbonitrile | 13 g | C1=C2C=C3N(C2=CC=C1)CCC(C3)C#N | C13H12N2
